US07700641B2
Synthesis of 1′-[(6-chloropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.21, and making non-critical variations using 2-chloro-5-(chloromethyl)pyridine to replace 2-bromomethyl-5-(trifloromethyl)furan, and spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, the title compound was obtained (69%): 1H NMR (300 MHz, CDCl3) δ 8.42 (d, 1H), 7.63 (dd, 1H), 7.34-7.14 (m, 3H), 7.05 (t, 1H), 6.77 (d, 1H), 6.51 (s, 1H), 6.06 (s, 1H), 5.89-5.84 (m, 2H), 5.07-4.78 (m, 3H), 4.66 (d, 1H); MS (ES+) m/z 407.3 (M+1).

reactant | 2-chloro-5-(chloromethyl)pyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-bromomethyl-5-(trifloromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
product | 1′-[(6-chloropyridin-3-yl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | ClC1=CC=C(C=N1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C22H15ClN2O4
